US05578634
5-Cyclopentoxy-2-ethyl-1H-indole-3-acetic acid methyl ester. As in Example 1, Part E, 2.33 g (0.0102 mol) of 5-cyclopentoxy-2-ethyl-1H-indole was treated with 6.4 mL (0.0102 mol) of a 1.6M solution of n-butyl lithum in hexane, 10.2 mL (0.0102 mol) of a 1M solution of ZnCl2 in ether, and 0.97 mL (0.0102 mol) of methyl 2-bromoacetate to give after chromatography on silica (5% EtOAc/toluene) 1.8 g (59%) of 5-cyclopentoxy-2-methyl-1H-indole-3-acetic acid methyl ester as an oil.

reactant | 5-Cyclopentoxy-2-ethyl-1H-indole-3-acetic acid methyl ester | COC(CC1=C(NC2=CC=C(C=C12)OC1CCCC1)CC)=O | C18H23NO3
reactant | 5-cyclopentoxy-2-ethyl-1H-indole | 0.0102 mol, 2.33 g | C1(CCCC1)OC=1C=C2C=C(NC2=CC1)CC | C15H19NO
reactant | n-butyl lithum | C(CCC)[Li]
reactant | methyl 2-bromoacetate | 0.0102 mol, 0.97 mL | BrCC(=O)OC | C3H5BrO2
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 5-cyclopentoxy-2-methyl-1H-indole-3-acetic acid methyl ester | COC(CC1=C(NC2=CC=C(C=C12)OC1CCCC1)C)=O | C17H21NO3
